US06313136B1
Synthesis of 1-((8-(2-ethyl-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridin-6-yl)carbonyl)-2-(s)-pyrrolidinecarboxamide
2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylic acid (0.15 g, 0.44 mmol), o-Benzotriazol-1-yl-N,N,N′,N′-Tetramethyluronium tetrafluoroborate (TBTU)(0.14 g, 0.45 mmol) and triethylamine (0.05 g, 0.5 mmol) were added to methylene chloride (10 ml) and the mixture was stirred for 10 min. (S)-prolinamide (0.016 g, 0.45 mmol) was added and the reaction mixture was stirred at ambient temperature for 1 h. The solvent was evaporated under reduced pressure and purification of the residue by column chromatography on silica gel using methylene chloride:methanol (9:1) as eluent and crystallization from diethyl ether gave 0.07 g (36%) of the title compound.

reactant | 2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylic acid | 0.44 mmol, 0.15 g | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CC)C(=O)O)C1C | C20H23N3O2
reactant | o-Benzotriazol-1-yl-N,N,N′,N′-Tetramethyluronium tetrafluoroborate | 0.45 mmol, 0.14 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1
reactant | triethylamine | 0.5 mmol, 0.05 g | C(C)N(CC)CC | C6H15N
reactant | (S)-prolinamide | 0.45 mmol, 0.016 g | N1[C@H](C(=O)N)CCC1 | C5H10N2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-((8-(2-ethyl-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridin-6-yl)carbonyl)-2-(s)-pyrrolidinecarboxamide | 0.07 g, 36% | C(C)C1=C(CNC=2C=3N(C=C(C2)C(=O)N2[C@@H](CCC2)C(=O)N)C(=C(N3)C)C)C(=CC=C1)C | C25H31N5O2
